Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lamisil
 
Attending: ___.
 
Chief Complaint:
lower abdominal pain, chills, malaise

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G3P5 PPD# ___ s/p primary low transverse cesarean section
of twins and postplacental Mirena IUD placement on ___ who was
transferred from ___ for lower abdominal pain, chills and
subjective fever. Patient reports that 2 days ago she started
having general malaise. She removed her steri-strips from her
incision after which she began having burning at her incision.
Since then she reports diffuse lower abdominal discomfort not
relieved with tylenol/ibuprofen as well as chills and subjective
fever (has not taken tempertature at home). She also reports
generalized malaise and myalgias. She does report that her sons
are currently getting over colds however she denies any upper
respiratory symptoms, cough, chest pain, SOB, sore throat. She
denies any nausea, vomiting, diarrhea, constipation, dysuria,
abnormal vaginal discharge, breast pain/erythema. Last BM
yesterday, + flatus. She reports mild to moderate lochia, not
saturating pads or passing clots.

 
Past Medical History:
OBHx:
G1 - SVD, term
G2 - SVD twins 34 weeks
G3 - pLTCS twins 35+6 for malpresentation of presenting twin and
anomalies. Twin A recently diagnosed with T21, both currently in
NICU

GYNHx: Denies abnormal paps, STIs, fibroids, cysts or GYN
surgeries

PMH: ?Cerebral palsy (unclear diagnosis), scoliosis, obesity
PSH: pLTCS, nevi removal, tonsillectomy/adnoidectomy

 
Social History:
Recently moved back to the ___ area from ___.
Currently living in ___ with mother, ___, half-sister,
step-father, and 3 children.  Not currently working.  Father of
children is not involved.

 
Physical Exam:
Admission:
Gen: Tired but overall well appearing, NAD
CV: RRR 
Resp: lungs CTAB, good air movement
Breasts: no erythema or tenderness, mild engorgement,
erythematous rash in inframammary folds with satellite lesions
Abd: soft, diffusely tender, primarily at fundus, no
rebound/guarding, incision well healing, no incisional erythema
or drainage, multiple erythematous satellite lesions on mons
Bimanual Exam: diffusely tender, mild fundal/cervical motion
tenderness, no palpable adnexal masses
Ext: no calf tenderness or edema
.
Discharge:
Gen: NAD
CV: RRR
Resp: breathing comfortably
Abd: soft, appropriately tender
 
Pertinent Results:
___ 11:21AM BLOOD WBC-6.7 RBC-3.54* Hgb-8.5* Hct-29.0* 
MCV-82 MCH-24.0* MCHC-29.3* RDW-16.9* RDWSD-48.6* Plt ___
___ 11:21AM BLOOD Neuts-66.8 ___ Monos-7.2 Eos-3.0 
Baso-0.6 Im ___ AbsNeut-4.45 AbsLymp-1.44 AbsMono-0.48 
AbsEos-0.20 AbsBaso-0.04
___ 05:59AM BLOOD Lactate-0.7
 
Brief Hospital Course:
Ms. ___ was re-admitted to the postpartum service for 
fever, chills and lower abdominal pain, likely due to 
endometritis. Her Mirena IUD was removed given infection in the 
immediate postpartum period. There was no evidence of retained 
products of conception on pelvic ultrasound. She was treated 
with IV ampicillin, gentamicin, and clindamycin for 48 hours 
afebrile. She was first afebrile at 8:30am on ___. Urine 
culture showed no growth. She was treated with nystatin cream 
for cutaneous yeast infection.
.
Alternative options for contraception including minipill, 
nexplanon and depo provera were discussed with the patient. She 
is currently not involved with partner at this time and declined 
alternative contraception. She would like to have Mirena IUD 
replaced which will occur in 3 months given infection.
.
Patient was discharged after completion of IV antibiotics and 
clinical improvement, with outpatient follow up.
 
Medications on Admission:
Tylenol, ibuprofen
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q4H:PRN Pain 
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
4. Nystatin Ointment 1 Appl TP QID:PRN yeast rash 
RX *nystatin 100,000 unit/gram Apply to affected areas up to 
four times daily Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometritis

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital for an infection in your 
uterus after your cesarean section. We did an ultrasound which 
showed no retained tissue. Because of the infection we removed 
your Mirena IUD. Continue pelvic rest, no intercourse or 
tampons, for 6 weeks. Because the IUD was removed you are no 
longer protected against getting pregnant. If you are sexually 
active it is important to use condoms to prevent pregnancy. You 
received antibiotics for 48 hours and it is now safe for you to 
go home.
 
Followup Instructions:
___